US04118510
3.4,5.6-Tetrahydrophthalimidomethyl dispiro(2.0.4.1)nonane-9-Carboxylate
Dispiro(2.0.4.1)nonan-9-carboxylic acid (0.66g) was converted to the corresponding acid chloride by refluxing with thionyl chloride (1ml) in benzene (20 ml) for 1 hour. The acid chloride, N-hydroxymethyl-3,4,5,6-tetrahydrophthalimide (0.7g) and triethylamine (0.5g) were then stirred together in ether (50 ml) for 6 hours. After removal of solvent under reduced pressure the residue was purified by chromatography on silica gel using dichloromethane as eluent. The required product was obtained as an oil R.I. nD18 1.5318.

reactant | Dispiro(2.0.4.1)nonan-9-carboxylic acid | 0.66g | C1CC12C1(CCCC1)C2C(=O)O | C10H14O2
reactant | thionyl chloride | 1ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-hydroxymethyl-3,4,5,6-tetrahydrophthalimide | 0.7g | OCN1C(C2=C(C1=O)CCCC2)=O | C9H11NO3
reactant | triethylamine | 0.5g | C(C)N(CC)CC | C6H15N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | ether | 50 ml | CCOCC | C4H10O
product | 3.4,5.6-Tetrahydrophthalimidomethyl dispiro(2.0.4.1)nonane-9-Carboxylate | C1CC12C1(CCCC1)C2C(=O)OCN2C(C1=C(C2=O)CCCC1)=O | C19H23NO4
